US07888352B2
Tert-butyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-ylcarbamate (250 mg) was treated with 3 equivalents methyl iodide and cesium carbonate at room temperature for one hour. The crude reaction mixture was extracted with ethyl acetate and water. The initial organic layer is discarded. The aqueous layer was acidified to pH 5 and the product was extracted out of the aqueous with ethyl acetate. This organic layer was dried with magnesium sulfate, filtered and concentrated to give 150 mg crude tert-butyl methyl5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-ylcarbamate.

reactant | Tert-butyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-ylcarbamate | 250 mg | CC1(OB(OC1(C)C)C=1C=NC(=NC1)NC(OC(C)(C)C)=O)C | C15H24BN3O4
reactant | methyl iodide | 3 equivalents | CI | CH3I
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
product | tert-butyl methyl5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-ylcarbamate | 150 mg | CN(C(OC(C)(C)C)=O)C1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O4
